US05981559
A mixture of methyl 3-[2-(4-tert-butyl-2-thiazolyl)ethoxy]benzoate hydrobromide (102 mg, 0.25 mmol), methanol (1 ml) and 6 N hydrochloric acid (0.5 ml) was stirred at 60° C. for 2 hours, 6 N hydrochloric acid (1 ml) was added, and the mixture was and stirred at 110° C. for 2 hours. The reaction solution was cooled and concentrated under reduced pressure. The resulting solid material was collected by filtration and washed with acetonitrile and diethyl ether in that order to give 3-[2-(4-tert-butyl-2-thiazolyl)ethoxy]benzoic acid hydrochloride (69 mg, 0.20 mmol, 80%).

reactant | methyl 3-[2-(4-tert-butyl-2-thiazolyl)ethoxy]benzoate hydrobromide | 0.25 mmol, 102 mg | Br.C(C)(C)(C)C=1N=C(SC1)CCOC=1C=C(C(=O)OC)C=CC1
reactant | hydrochloric acid | 6 N, 0.5 ml | Cl | ClH
reactant | hydrochloric acid | 6 N, 1 ml | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
product | 3-[2-(4-tert-butyl-2-thiazolyl)ethoxy]benzoic acid hydrochloride | 0.20 mmol, 69 mg, 80% | Cl.C(C)(C)(C)C=1N=C(SC1)CCOC=1C=C(C(=O)O)C=CC1 | InChI=1S/C16H19NO3S.ClH/c1-16(2,3)13-10-21-14(17-13)7-8-20-12-6-4-5-11(9-12)15(18)19;/h4-6,9-10H,7-8H2,1-3H3,(H,18,19);1H
